Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain and Dyspnea 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old male with history of severe COPD, 
FEV1 .58 on ___ NC home O2, who initially presented to the ED 
for evaluation of abdominal pain.  
The patient reports that for approximately 4 days he has had 
ongoing abdominal pain. He reports the pain to be mid-abdominal, 
sharp, ___ at highest intensity. He reports the pain improves 
with meals. He denies history of known PUD, denies significant 
dyspepsia or GERD symptoms. The patient otherwise denies 
hemtochezia, melena, constipation or diarrhea. He denies dysuria 
or change in urinary habits. Given his symptoms the patient 
presented to the ED for further evaluation  
ED Course: 98.1, 200/95, 108, 20, 93% 3L. In the ED the patient 
had labs revealing for normal LFTs and mild anemia. The patient 
had a CT Abd/Pelvis performed which revealed no acute pathology. 
While in the ED the patient was noted to have some dyspnea. 
Attempt was made to perform ambulatory O2 sat with finding that 
patient's O2 sat decreased to ___ with ambulation for which he 
is now admitted to the medical service.  
On arrival to the medical floor history as above is confirmed. 
The patient reports that at baseline he has been using 4L NC x 6 
months. He does not increase this for exercise. The patient 
continues to smoke ___ cigarettes daily although he reports he 
takes his Oxygen off when doing this. He is followed previously 
by Dr. ___ more recently by Dr. ___. The patient 
is noted to have nearly end-stage COPD with consideration of 
theophylline therapy or pulmonary rehab in the future. The 
patient is maintained at baseline 10mg every other day 
Prednisone and of note, has reported during last visits 
abdominal pain with concern raised for gastritis secondary to 
steroids. The patient reports currently is dyspnea is mildly 
worse than usual, he has since been weaned back to Prednisone 
10mg qod after a recent taper. He reports coughing 
intermittently yellow sputum, no increased volume or frequency 
of this sputum.  

 
Past Medical History:
(Existing data reviewed in ___)  
#. COPD, severe - FEV1 .58  
- on home O2 (4L)  
FEV1 22% predicted, FEV1/FVC  
#. Tobacco Abuse: Previous 5PPD, now ___  
#. Diabetes Mellitus  
#. Diverticulosis  
#. h/o SBO  
#. C6-C7 HERNITATION  
#. B12 Deficiency- on monthly injections  
#. Obesity, possible OSA, but pt refuses sleep study or CPAP  
#. Psoriasis  
#. Hypertension  
#. GERD  
#. Glaucoma  
#. Recent LLE cellulitis ___  

 
Social History:
___
Family History:
Mother and Father died of lung cancer in their ___, sister just 
recently died at age ___ from lung CA, daughter with cystic 
fibrosis
 
Physical Exam:
Discharge Vitals 98.3  132/64  p80's  R20  94%4L
General: Patient is a middle aged male, appears older than 
stated age. Patient is sitting on side of bed, in mild 
respiratory distress. Poorly groomed, appropriate and 
cooperative  
HEENT: NCAT, EOMI, sclera anicteric, conjunctiva WNL  
OP: MMM, no lesions, edentulous  
Neck: JVP not well visualized ___ body habitus  
Chest: Moderately prolonged I:E ration, decreased breath sounds 
throughout, no significant wheezing appreciated although may be 
___ poor air movement  
Cor: Distant heart sounds, no obvious M/R/G  
Abdomen: Obese, soft, non-tender throughout. Normal bowel 
sounds. No organomegaly  
Rectal: Significant dry stool around anal verge. Normal tone, 
thin brown stool in rectal vault, guaiac negative (on admission) 

Ext: trace to 1+ pitting edema to ankles bilaterally, skin with 
xerosis, no rash  
Skin/Nails: ___ consistent with chronic 
stasis, no erythmea  
Neuro: Grossly intact  

 
Pertinent Results:
___ 06:00PM BLOOD WBC-8.6 RBC-3.92* Hgb-12.1* Hct-35.7* 
MCV-91 MCH-30.8 MCHC-33.8 RDW-13.8 Plt ___
___ 06:20AM BLOOD WBC-6.8 RBC-3.51* Hgb-10.6* Hct-32.6* 
MCV-93 MCH-30.1 MCHC-32.5 RDW-14.0 Plt ___
___ 06:00PM BLOOD Neuts-88.6* Lymphs-6.4* Monos-3.4 Eos-1.3 
Baso-0.2
___ 06:20AM BLOOD Glucose-143* UreaN-21* Creat-0.7 Na-144 
K-3.5 Cl-105 HCO3-35* AnGap-8
___ 06:00PM BLOOD ALT-11 AST-12 AlkPhos-85 TotBili-0.2
___ 06:00PM BLOOD Lipase-19
___ 06:20AM BLOOD Mg-1.9
.
CT Abd:
IMPRESSION: 
  
1. No etiology for abdominal pain or bowel obstruction 
identified. 
  
2. Unchanged emphysema. 
  
3. Small hypoattenuating bilateral renal lesions which are too 
small to 
definitively characterize but likely benign cysts. 
  
4. Colonic diverticulosis without findings of acute 
diverticulitis. Normal 
appendix. 
.
.
CXR:
CONCLUSION: No acute cardiopulmonary process.
.
Abd Xray:
CONCLUSION: Non-obstructive bowel gas pattern with fecal loading 
seen in the colon. 

 
Brief Hospital Course:
The patient is a ___ year old male with severe COPD on chronic 
Prednisone therapy who is was admitted with abdominal pain and 
dyspnea.  Pt's abdominal pain resolved on admission and did not 
recur. 
.  
#. COPD, acute on chronic: Patient initially evaluated for 
abdominal pain but subsequently evaluated with impression of 
COPD flare. Chest film is without infiltrate, no increase in 
sputum production from baseline. Pt breathing better today, with 
improved exercise tolerance. 
Patient was treated with steroid burst with 40 mg for 2 days, 
and then will be discharged with a rapid taper back to his 
previous 10 mg po qod. Antibiotics were withheld, as there was 
no evidence of infection.  He was continued on Advair, and was 
treated with standing nebulizers.  He was evaluated by physical 
therapy, and he mainained oxygen saturations 87% and greater 
while ambulating, with rapid return to 96% with rest.  Pt was 
referred to pulmonary rehab at time of discharge.
.  
#. Abdominal Pain: Per OMR review, symptoms are not new. Mid 
abdominal pain with normal CT; sx currently resolved.  Patient's 
dose of PPi was increased to 40 mg po bid.
- continue PPI bid with consideration of gastritis vs. PUD as 
etiology of symptoms  
- would consider outpatient H. Pylori testing and treatment if + 
for potential PUD vs. non-ulcer dyspepsia  
- will defer further workup to pcp if symptoms recur.
.  
#. Diabetes Mellitus II controlled without complication  
- held Metformin for 48 hrs after IV contrast for abd CT
- provided Insulin sliding scale while in house  
- resumed Metformin/Glipizide on discharge  
.  
#. Hypertension, Essential: Poorly controlled on admission with 
SBP 180/80.  
Pt's lisinopril currently at reduced dose s/p previous 
hospitalization d/t hyperkalemia. K currently at upper end of 
normal, so increased amlodipine from 5 to 10 mg with improved BP 
control.  
.  
#. Tobacco Abuse: Previous 5PPD, now ___  
- continue efforts towards abstinence  
.  
#. Anemia, B12 Deficiency - continue B12 therapy as outpatient  
.  
#. Glaucoma: Continue gtts per outpatient regimen  
.  
#. FEN - Cardiac Heart Healthy Diet  
.  
#. Code - Full, confirmed with patient  
.  
#. Dispo - to home today with services and referral to pulmonary 
rehab
.  
#. Communication - Patient  

 
Medications on Admission:
Oxygen 4L NC  
Advair 500mcg-50 bid  
Combivent 18mcg-103mcg 2 puffs qif and PRN  
Prednisone 10mg every other day  
Aspirin 325mg daily  
Furosemide 40mg daily  
Amlodipine 5mg daily  
Simvastatin 5mg qhs  
Glyburide 2.5 mg every other day with Prednisone  
Metformin 1000mg bid  
Xalatan 0.005% gtt - each eye qhs  
Calcium + Vitamin D: 500mg-200U bid  
Senna 8.6mg bid  
Derma smooth .01% as needed  
Triamcinolone .1% ointment PRN  
Fosamax 70mg q ___  
Prilosec 20mg bid  
Cyanocobalamin 1000mcg q month  
Colace 100mg bid  
Ferrous Sulfate 325mg daily  
Magnesium Oxide 400mg daily  
Ranitidine 300mg qhs  
Flonase 50mcg: 2 sprays both nostrils once daily  

 
Discharge Medications:
1. Prednisone 10 mg Tablet Sig: Two (2) Tablet PO once a day for 
2 days.
Disp:*10 Tablet(s)* Refills:*0*
2. Prednisone 10 mg Tablet Sig: One (1) Tablet PO once a day for 
2 days: after finishing 2 days of 20 mg po q day. 
After completing this Rx for 10 mg po q day x 2 days, then 
please resume your previous regimen of 10 mg po every other day. 
Tablet(s) 
3. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
7. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. Triamcinolone Acetonide 0.1 % Ointment Sig: One (1) Appl 
Topical BID (2 times a day) as needed.  
9. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
12. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
13. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
14. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
16. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
17. Combivent ___ mcg/Actuation Aerosol Sig: Two (2)  
Inhalation four times a day.  
18. oxygen @ 4 L NC
19. Amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
20. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
21. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
22. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO Take when 
take Prednisone doses.  
23. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
24. Pulmonary Rehab

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# COPD, acute on chronic
# Abdominal pain, nos
# Diabetes T2, controlled without complications
# Hypertension, essential
# Tobacco abuse, ongoing

 
Discharge Condition:
stable

 
Discharge Instructions:
Please take your medications as prescribed.  Please seek medical 
attention if you develop worsened shortness of breath, develop 
fevers, abdominal pain, lightheadedness, dizziness, or any other 
concerns.
 
Followup Instructions:
___